US07994167B2
3. Synthesis of N-{4-[3-(4-pentafluorosulphanyl-benzyl)-thioureidomethyl]-2-fluoro-phenyl}-methane sulphonamide
N-(4-aminomethyl-2-fluoro-phenyl)-methane sulphonamide (237 mg, 1.09 mmol) was dissolved in dimethylformamide (1 ml) and to this was added triethylamine (132 mg, 1.30 mmol) and 4-(pentafluorosulphanyl)benzylisothiocyanate (300 mg, 1.09 mmol) dissolved in dimethylformamide (1 ml). The reaction mixture was stirred over night at room temperature, the solvent removed under vacuum and the residue dissolved in a little methanol. Following column chromatographic cleaning (silica gel, hexane/ethyl acetate 1:5), the product was obtained as a solid (305 mg, 57% of the theoretical amount).

reactant | N-(4-aminomethyl-2-fluoro-phenyl)-methane sulphonamide | 1.09 mmol, 237 mg | NCC1=CC(=C(C=C1)NS(=O)(=O)C)F | C8H11FN2O2S
reactant | triethylamine | 1.30 mmol, 132 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(pentafluorosulphanyl)benzylisothiocyanate | 1.09 mmol, 300 mg | FS(C1=CC=C(CN=C=S)C=C1)(F)(F)(F)F | C8H6F5NS2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-{4-[3-(4-pentafluorosulphanyl-benzyl)-thioureidomethyl]-2-fluoro-phenyl}-methane sulphonamide | FS(C1=CC=C(CNC(NCC2=CC(=C(C=C2)NS(=O)(=O)C)F)=S)C=C1)(F)(F)(F)F | C16H17F6N3O2S3
